US07491732B2
2-Chloro-5-methyl-N4-(4-methyl-3-oxo-benzo[1,4]thiazin-6-yl)-4-pyrimidineamine
A mixture of 1.3 g of 6-Amino-4-methyl-3-oxo-benzo[1,4]thiazine and 3.3 g of 2,4-Dichloro-5-methylpyrimidine in 100 mL methanol was stirred at RT overnight and was reduced in volume by rotary evaporation. The solution was filtered and the filtrate diluted with water and neutralized with sodium bicarbonate. The precipitate was collected by suction filtration washed with water and dried on the funnel to yield 660 mg 13% of the desired product 2-Chloro-5-methyl-N4-(4-methyl-3-oxo-benzo[1,4]thiazin-6-yl)-4-pyrimidineamine 1H NMR (DMSO-d6): δ 8.93 (s, 1H), 8.06 (m, 2H), 7.62 (s, 1H), 7.37 (s, 1H), 3.51 (s, 2H), 2.16 (s, 3H) purity 97%; MS (m/e) 321 (MH+).

reactant | 6-Amino-4-methyl-3-oxo-benzo[1,4]thiazine | 1.3 g | NC=1C=CC2=C(N(C(CS2)=O)C)C1 | C9H10N2OS
reactant | 2,4-Dichloro-5-methylpyrimidine | 3.3 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
solvent | methanol | 100 mL | CO | CH4O
product | 2-Chloro-5-methyl-N4-(4-methyl-3-oxo-benzo[1,4]thiazin-6-yl)-4-pyrimidineamine | 660 mg, 13% | ClC1=NC=C(C(=N1)NC=1C=CC2=C(N(C(CS2)=O)C)C1)C | C14H13ClN4OS
